US06831106B1
k) Methyl 3′-(3,4-bis-hydroxymethyl-benzylsulphanyl)-2-methylbiphenyl-4-carboxylate
1.67 g (3 mmol) of [2-hydroxymethyl-5-(3-tributylstannylphenylsulphanylmethyl)phenyl]methanol are dissolved in 30 mL of toluene and 5 mL of DME. 970 mg (4.5 mmol) of 4-bromo-3-methylbenzoic acid are added and the mixture is degassed with a stream of argon for 10 minutes. Pd(PPh3)4 (175 mg, 0.15 mmol) is then added and the reaction medium is brought to reflux and stirred for 24 h. The reaction medium is then treated with ammonium chloride solution and then extracted with ethyl acetate. The organic phases are combined, dried and then concentrated under reduced pressure. The residue is then dissolved in 50 mL of methanol, 1 mL of sulphuric acid is added and the mixture is then refluxed for 18 h. After cooling and treatment with water, the mixture is extracted with ethyl acetate. The organic phases are combined, dried and then concentrated under reduced pressure. The residue is then purified by chromatography on a column of silica. A colourless oil is obtained (m=180 mg, Y=15%).

reactant | [2-hydroxymethyl-5-(3-tributylstannylphenylsulphanylmethyl)phenyl]methanol | 3 mmol, 1.67 g | OCC1=C(C=C(C=C1)CSC1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC)CO
reactant | 4-bromo-3-methylbenzoic acid | 4.5 mmol, 970 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.15 mmol, 175 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3′-(3,4-bis-hydroxymethyl-benzylsulphanyl)-2-methylbiphenyl-4-carboxylate | OCC=1C=C(CSC=2C=C(C=CC2)C2=C(C=C(C=C2)C(=O)OC)C)C=CC1CO | C24H24O4S
